US05273999
Preparation of (E)-3-[3-[[5-(Acetyloxy)pentyl]oxy]phenyl]-2-propenoic Acid Methyl Ester
Using the procedure of example 28, the title compound was prepared in 80% yield, from 2.6 g (10.4 mmol) of 3-[[5-(acetyloxy)pentyl]oxy]benzaldehyde and 4.0 g (12 mmol) of methyl (triphenylphosphoranylidene)acetate, as a colorless solid, mp 65°-67° C.

reactant | 3-[[5-(acetyloxy)pentyl]oxy]benzaldehyde | 10.4 mmol, 2.6 g | C(C)(=O)OCCCCCOC=1C=C(C=O)C=CC1 | C14H18O4
reactant | methyl (triphenylphosphoranylidene)acetate | 12 mmol, 4.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
product | (E)-3-[3-[[5-(Acetyloxy)pentyl]oxy]phenyl]-2-propenoic Acid Methyl Ester | 80% yield | COC(\C=C\C1=CC(=CC=C1)OCCCCCOC(C)=O)=O | C17H22O5
